US07645784B2
2-(1H-Benzimidazol-1-yl)-N-heptylacetamide
O-(7-Azabenzotriazol1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (80 mg, 0.21 mmol) was added under stirring to a solution of 1H-benzoimidazol-1-ylacetic acid triethylammonium salt (55.5 mg, 0.2 mmol) and N-methyl morpholine (66 μL, 0.6 mmol) in acetonitrile (1 mL). After 5 min 1-heptylamine (30 μL, 0.2 mmol) was added and mixture was stirred at ambient temperature for 3 h. The solvent was evaporated, the residue was dissolved in ethyl acetate (15 mL) and extracted with saturated aqueous NaHCO3 (5 mL) and brine (5 mL) then dried over anhydrous Na2SO4 and concentrated. Purification of the crude product was performed by preparative HPLC (XTerra C8 column 19×300 mm, 0.1 M NH4OAc/CH3CN). Product-containing fractions were pooled and lyophilised affording the title compound (43.7 mg, 80%). Calculated for C16H23N3O m/z: 273.18, found 274.03 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.85 (m, 3H), 1.26 (m, 8 H), 1.41 (m, 2H), 3.07 (m, 2H), 4.88 (s, 2H), 7.20 (m, 2H), 7.42 (m, 1H), 7.64 (m, 1H), 8.14 (s, 1H), 8.27 (t, J=5.6 Hz, 1H).

reactant | O-(7-Azabenzotriazol1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.21 mmol, 80 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1H-benzoimidazol-1-ylacetic acid triethylammonium salt | 0.2 mmol, 55.5 mg | C(C)[NH+](CC)CC.N1(C=NC2=C1C=CC=C2)CC(=O)[O-]
reactant | N-methyl morpholine | 0.6 mmol, 66 μL | CN1CCOCC1 | C5H11NO
reactant | 1-heptylamine | 0.2 mmol, 30 μL | C(CCCCCC)N | C7H17N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 2-(1H-Benzimidazol-1-yl)-N-heptylacetamide | 43.7 mg, 80% | N1(C=NC2=C1C=CC=C2)CC(=O)NCCCCCCC | C16H23N3O
